US04894358
To a stirred mixture of 2,4-dinitrofluorobenzene, 5.69 ml (45 mmol) and potassium carbonate 6.3 g (45 mmol) in acetone was added benzenethiol 4.65 ml (45 mmol). The mixture was heated to reflux for 2 hours, cooled and the solvent removed under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated potassium carbonate, dried over sodium sulfate, filtered and the solvent removed under reduced pressure to give 7.0 g (56%) of 2,4-dinitrophenyl phenyl sulfide.

reactant | 2,4-dinitrofluorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | potassium carbonate | 45 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzenethiol | 45 mmol, 4.65 ml | C1(=CC=CC=C1)S | C6H6S
solvent | acetone | CC(=O)C | C3H6O
product | 2,4-dinitrophenyl phenyl sulfide | 7.0 g, 56% | C1(=CC=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H8N2O4S
